US04202978
A solution of 25 g (0.128 mol) of 6-bromohexanoic acid and 12.7 g (0.125 mol) of triethylamine in 150 ml of ether was cooled (0°) and treated dropwise with 28.5 g (0.263 mol) of ethyl chloroformate. The reaction mixture was stirred for 1 hr and then filtered. To the cooled (0°) filtrate was added a solution of 21 g (0.129 mol) of N-phenylpiperazine in 50 ml of ether. The reaction mixture was then allowed to warm to room temperature for 30 min and was then washed once with 1 N NaOH solution and once with water. The dried (Na2SO4) organic layers were concentrated in vacuo to give a yellow oil which was dissolved in benzene and chromatographed on silica gel (500 g). The column was eluted with benzene-ethyl acetate mixtures, the product appearing in the benzene-ethyl acetate (8.5:1.5) mixtures. Evaporation of those combined mixtures gave 1-(6-bromohexanoyl)-4-phenylpiperazine.

reactant | 6-bromohexanoic acid | 0.128 mol, 25 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | triethylamine | 0.125 mol, 12.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.263 mol, 28.5 g | ClC(=O)OCC | C3H5ClO2
reactant | N-phenylpiperazine | 0.129 mol, 21 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(6-bromohexanoyl)-4-phenylpiperazine | BrCCCCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C16H23BrN2O
